US08835428B2
Methyl 2-(3-(4-(3-(2,6-difluorophenyl)ureido)-3-methylphenyl) isoxazole-5-carboxamido)propanoate
To a solution of 3-(4-(3-(2,6-difluorophenyl)ureido)-3-methylphenyl)isoxazole-5-carboxylic acid (1.0 equiv.) in 50 ml of THF was added N-methylmorpholine (1.0 equiv.) at RT. The reaction mixture was then cooled to −20° C. and isobutylchloroformate (1.0 equiv.) was added and stirred at −20° C. for 5 min. L-alanine methyl ester hydrochloride (1.1 equiv.) was neutralized with Et3N (1.1 equiv.) in 25 ml of THF and added to the above mixture. The mixture was stirred at −20° C. for 5 min and then gradually warmed to RT over a period of 1 hr. THF was evaporated under vacuum and the residue was triturated with EtOAc with minimum quantity of MeOH and collected by filtration. This yielded the title compound as a white solid (92%) after drying in vacuo. 1H NMR (300 MHz, DMSO-d6) δ: 1.38-1.41 (d, J=7.2 Hz, 3H), 2.32 (s, 3H), 3.64 (s, 3H), 4.47-4.51 (t, J=7.2 Hz, 1H), 7.12-7.17 (m, 2H), 7.25-7.32 (m, 1H), 7.61 (S, 1H), 7.67-7.70 (d, J=8.4 Hz, 1H), 7.76 (s, 1H), 8.05-8.08 (d, J=8.7 Hz, 1H), 8.34 (s, 1H), 8.67 (s, 1H), 9.35-9.37 (d, J=6.9 Hz, 1H); ms (ESI) m/z 459.1 [M+H]+.

reactant | 3-(4-(3-(2,6-difluorophenyl)ureido)-3-methylphenyl)isoxazole-5-carboxylic acid | 1.0 equiv. | FC1=C(C(=CC=C1)F)NC(NC1=C(C=C(C=C1)C1=NOC(=C1)C(=O)O)C)=O | C18H13F2N3O4
reactant | N-methylmorpholine | 1.0 equiv. | CN1CCOCC1 | C5H11NO
reactant | isobutylchloroformate | 1.0 equiv. | C(C(C)C)OC(=O)Cl | C5H9ClO2
reactant | L-alanine methyl ester hydrochloride | 1.1 equiv. | Cl.COC([C@@H](N)C)=O
reactant | Et3N | 1.1 equiv. | CCN(CC)CC | C6H15N
solvent | THF | 50 ml | C1CCOC1 | C4H8O
solvent | THF | 25 ml | C1CCOC1 | C4H8O
product | Methyl 2-(3-(4-(3-(2,6-difluorophenyl)ureido)-3-methylphenyl) isoxazole-5-carboxamido)propanoate | 92% | FC1=C(C(=CC=C1)F)NC(NC1=C(C=C(C=C1)C1=NOC(=C1)C(=O)NC(C(=O)OC)C)C)=O | C22H20F2N4O5
